US07323455B2
tert-Butyl 2-(5,5-dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate was prepared from 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 2-borono-1H-pyrrole-1-carboxylic acid, 1-tert-butyl ester generally according to the procedure described in example 1. 1H-NMR (DMSO-d6) δ 9.96 (s, 1H), 7.32 (m, 1H), 7.23 (m, 1H), 7.15 (d, J=8.24 Hz, 1H), 7.07 (d, J=8.3 Hz, 1H), 6.25 (m, 2H), 4.23 (s, 2H), 1.55 (s, 6H), 1.36 (s, 9H); MS (ES) m/z 357 ([M+H]+, 100%).

reactant | 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C11H12BrNO2
reactant | 2-borono-1H-pyrrole-1-carboxylic acid, 1-tert-butyl ester | B(O)(O)C=1N(C=CC1)C(=O)OC(C)(C)C | C9H14BNO4
product | tert-Butyl 2-(5,5-dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate | CC1(OCC(NC2=C1C=C(C=C2)C=2N(C=CC2)C(=O)OC(C)(C)C)=O)C | C20H24N2O4
